US07595401B2
The 1-(1-cyclopropyl-3-hydroxy-propyl)-3-isopropyl-urea (0.189 g, 0.950 mmol) was then dissolved in CH2Cl2 (10 mL) and CBr4 (0.477 g, 1.40 mmol) was added and the mixture was cooled to 0° C. To the mixture was added PPh3-polymer-bound resin (0.889 g, 1.40 mmol; 1.6 mmol/g) in portionwise. After stirring for at rt for 3 h, the mixture was diluted with CH2Cl2 (50 mL), filtered, and washed with CH2Cl2/MeOH/Acetone. The combined filtrates were concentrated in vacuo to give 1-(3-Bromo-1-cyclopropyl-propyl)-3-isopropyl-urea (0.212 g). GC-MS m/z 262.

reactant | 1-(1-cyclopropyl-3-hydroxy-propyl)-3-isopropyl-urea | 0.950 mmol, 0.189 g | C1(CC1)C(CCO)NC(=O)NC(C)C | C10H20N2O2
reactant | CBr4 | 1.40 mmol, 0.477 g | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 1.40 mmol, 0.889 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Bromo-1-cyclopropyl-propyl)-3-isopropyl-urea | 0.212 g | BrCCC(C1CC1)NC(=O)NC(C)C | C10H19BrN2O
